US06133271
Following the procedure of Example 97, the reaction of pyrazole with 2-chloro-6-ethyl-4-(3,4-ethylendioxybenzylamino)-thieno-[2,3-d]-pyrimidine gives 2-(pyrazol-1-yl)-6-ethyl-4-(3,4-ethylendioxybenzylamino)-thieno-[2,3-d]-pyrimidine.

reactant | pyrazole | N1N=CC=C1 | C3H4N2
reactant | 2-chloro-6-ethyl-4-(3,4-ethylendioxybenzylamino)-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2)CC)NCC2=CC1=C(C=C2)OCCO1 | C17H16ClN3O2S
product | 2-(pyrazol-1-yl)-6-ethyl-4-(3,4-ethylendioxybenzylamino)-thieno-[2,3-d]-pyrimidine | N1(N=CC=C1)C=1N=C(C2=C(N1)SC(=C2)CC)NCC2=CC1=C(C=C2)OCCO1 | C20H19N5O2S
